US06992094B1
6-(5,5,8,8-Tetramethyl-3-propoxy-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid
In a manner similar to that of Example 2, by reaction of 485 mg (1.02 mmol) of ethyl 6-(5,5,8,8-tetramethyl-3-propoxy-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate with 385 mg (9.6 mmol) of sodium hydroxide in ethanol (20 ml), 444 mg (97%) of a white solid are obtained. m.p.: 220° C.

reactant | ethyl 6-(5,5,8,8-tetramethyl-3-propoxy-5,6,7,8-tetrahydro 2-naphthylselanyl)nicotinate | 1.02 mmol, 485 mg | CC1(C=2C=C(C(=CC2C(CC1)(C)C)[Se]C1=NC=C(C(=O)OCC)C=C1)OCCC)C | C25H33NO3Se
reactant | sodium hydroxide | 9.6 mmol, 385 mg | [OH-].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(5,5,8,8-Tetramethyl-3-propoxy-5,6,7,8-tetrahydro-2-naphthylselanyl)nicotinic acid | CC1(C=2C=C(C(=CC2C(CC1)(C)C)[Se]C1=NC=C(C(=O)O)C=C1)OCCC)C | C23H29NO3Se
